US05201936
Synthesis of 2-ethoxycarbonylacetyl-3-hydroxy-thiophene
4.8 g (0.0337 mol) of 2-acetyl-3-hydroxythiophene in 150 ml of diethyl carbonate are heated to 90°-100° C. 5 g of small sodium pieces are then added. Stirring is continued for 15 hours at 90°-100° C. To decompose remainders of sodium, a little ethanol is added. For working up, the mixture is extracted twice using 75 ml of water, the aqueous phase is then acidified with 10 ml of concentrated HCl, extracted 3 times with 50 ml portions of ether, dried, distilled in vacuo, and the fraction between 70° and 100° C. (0.6 mbar, educt) and between 113° and 118° C. (0.4 mbar product) is collected.

reactant | 2-acetyl-3-hydroxythiophene | 0.0337 mol, 4.8 g | C(C)(=O)C=1SC=CC1O | C6H6O2S
reactant | sodium | 5 g | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
reactant | diethyl carbonate | 150 ml | C(OCC)(OCC)=O | C5H10O3
product | 2-ethoxycarbonylacetyl-3-hydroxy-thiophene | C(C)OC(=O)CC(=O)C=1SC=CC1O | C9H10O4S
